US06066658
Ethyl 4-ethoxycarbonylmethylthio-5-formyl-6,7-dihydro-3-methylthiobenzo[c]thiophene-1-carboxylate (0.30 g) was dissolved in acetic anhydride (10 ml) and refluxed under heating for 11 hours, after which it was concentrated under reduced pressure. The residue was poured over water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and water in that order and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:7, v/v) to yield diethyl 4,5-dihydro-8-methylthiobenzo[2,1-c:3,4-b']dithiophene-2,6-dicarboxylate (0.15 g, 52%), which was then recrystallized from ethyl acetate-hexane. Yellow prisms. Melting point 107-108° C.

reactant | Ethyl 4-ethoxycarbonylmethylthio-5-formyl-6,7-dihydro-3-methylthiobenzo[c]thiophene-1-carboxylate | 0.30 g | C(C)OC(=O)CSC1=C(CCC2=C(SC(=C21)SC)C(=O)OCC)C=O | C17H20O5S3
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | diethyl 4,5-dihydro-8-methylthiobenzo[2,1-c:3,4-b']dithiophene-2,6-dicarboxylate | 0.15 g, 52% | CSC=1SC(=C2C1C=1SC(=CC1CC2)C(=O)OCC)C(=O)OCC | C17H18O4S3
